US06660744B1
A mixture of benzyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (3.0 g, 0.0063 mol), 5-methylfurfural (0.77 g, 0.007 mol), and acetic acid (1.15 g, 0.019 mol) in dichloroethane (100 mL) was stirred at room temperature under an atmosphere of nitrogen for 1.5 hrs. Sodium triacetoxyborohydride (4.1 g, 0.0195 mol) was added to the mixture and the mixture was stirred at ambient temperature under an atmosphere of nitrogen for 18 hours. The reaction was quenched with an aqueous 5N solution of sodium hydroxide. The solvents were removed under reduced pressure, and the residue was partitioned between water and dichloromethane. The aqueous layer was extracted with dichloromethane (3×200 mL), and the combined organic layer was washed with water and brine, and dried over magnesium sulfate. The solvents were removed under reduced pressure. The residue was purified by flash chromatography on silica gel using 2%-5% methanol/dichloromethane as mobile phase to yield benzyl 4-[4-amino-3-(3-methoxy-4-{[(5-methyl-2-furyl)methyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (2.63 g, 0.0046 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-95% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 11.59 min. MS: MH+ 568.

reactant | benzyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 0.0063 mol, 3.0 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N)OC)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C25H27N7O3
reactant | 5-methylfurfural | 0.007 mol, 0.77 g | CC1=CC=C(C=O)O1 | C6H6O2
reactant | acetic acid | 0.019 mol, 1.15 g | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.0195 mol, 4.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | benzyl 4-[4-amino-3-(3-methoxy-4-{[(5-methyl-2-furyl)methyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 0.0046 mol, 2.63 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NCC=2OC(=CC2)C)OC)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C31H33N7O4
